US09290485B2
f) {4,6-Dimethyl-5-[({1-[4-(5-methyl-pyrazol-1-ylmethyl)-benzyl]-1H-[1,2,3]triazole-4-carbonyl}-amino)-methyl]-pyridin-2-yl}-carbamic acid tert-butyl ester
A mixture of [5-({[1-(4-Chloromethyl-benzyl)-1H-[1,2,3]triazole-4-carbonyl]-amino}-methyl)-4,6-dimethyl-pyridin-2-yl]-carbamic acid tert-butyl ester (200 mg, 0.412 mmol), 3-methylpyrazole (33.9 mg, 0.412 mmol) and cesium carbonate (269 mg, 0.825 mmol) in 2 mL of DMF was stirred at 80° C. for 2 h. The reaction mixture was filtered and concentrated under reduced pressure. The residue was purified by preparative HPLC (Waters SunFire Prep C18 OBD 5 μm 30×100 mm, Flow 40 mL/min, ACN/water (0.1% TFA) 5/95 over 2 min, then ACN/water (0.1% TFA) 5195-100/0 over 15 min). LCMS (Method A) RtA=1.527; [M+H]+=531.1.

reactant | [5-({[1-(4-Chloromethyl-benzyl)-1H-[1,2,3]triazole-4-carbonyl]-amino}-methyl)-4,6-dimethyl-pyridin-2-yl]-carbamic acid tert-butyl ester | 0.412 mmol, 200 mg | C(C)(C)(C)OC(NC1=NC(=C(C(=C1)C)CNC(=O)C=1N=NN(C1)CC1=CC=C(C=C1)CCl)C)=O | C24H29ClN6O3
reactant | 3-methylpyrazole | 0.412 mmol, 33.9 mg | CC1=NNC=C1 | C4H6N2
reactant | cesium carbonate | 0.825 mmol, 269 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | {4,6-Dimethyl-5-[({1-[4-(5-methyl-pyrazol-1-ylmethyl)-benzyl]-1H-[1,2,3]triazole-4-carbonyl}-amino)-methyl]-pyridin-2-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NC(=C(C(=C1)C)CNC(=O)C=1N=NN(C1)CC1=CC=C(C=C1)CN1N=CC=C1C)C)=O | C28H34N8O3
